US04722929
2-(2-Methoxy-4-methoxycarbonyl-phenyl)-5H-imidazo[4,5-c]pyridin-4-one hydrochloride
Prepared analogously to Example 1 from 2-methoxy-3,4-diaminopyridine and 2-methoxy-4-cyano-benzoic acid. The product mixture obtained is digested with dichloroethane/ethanol (3:1). The undissolved material is filtered off, and the solution is evaporated and boiled with methanolic hydrochloric acid. On cooling, the product crystallizes out in the form of the hydrate.

reactant | 2-methoxy-3,4-diaminopyridine | COC1=NC=CC(=C1N)N | C6H9N3O
reactant | 2-methoxy-4-cyano-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)C#N | C9H7NO3
reactant | dichloroethane ethanol | ClC(C)Cl.C(C)O
product | 2-(2-Methoxy-4-methoxycarbonyl-phenyl)-5H-imidazo[4,5-c]pyridin-4-one hydrochloride | Cl.COC1=C(C=CC(=C1)C(=O)OC)C1=NC=2C(C(NCC2)=O)=N1 | InChI=1S/C15H13N3O4.ClH/c1-21-11-7-8(15(20)22-2)3-4-9(11)13-17-10-5-6-16-14(19)12(10)18-13;/h3-5,7H,6H2,1-2H3,(H,16,19);1H
